US06984653B2
Production of N-ethyl-N′-[2-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]ethyl]urea
Ethyl isocyanate (62.0 μl) was added to a solution of 2-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]ethylamine (200 mg) in pyridine (2 ml) at 0° C., and the mixture was stirred at 0° C. for 1.5 hr and at room temperature for 22 hr. The reaction mixture was combined with water to give crystals, which were collected by filtration, washed with diethyl ether and recrystallized from ethyl acetate-methanol-hexane to give the titled compound (161 mg) as colorless needle crystals.

reactant | Ethyl isocyanate | 62.0 μl | C(C)N=C=O | C3H5NO
reactant | 2-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]ethylamine | 200 mg | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCN)(F)F | C28H29F3N4O2
reactant | water | O | H2O
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | N-ethyl-N′-[2-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]ethyl]urea | 161 mg | C(C)NC(=O)NCCC=1N(C=CN1)CCCCC1=CC=C(C=C1)OCC=1N=C(OC1)\C=C\C1=CC=C(C=C1)C(F)(F)F | C31H34F3N5O3
